US09403839B2
To a stirring solution of 4-isopropoxy-3-methoxy-benzoic acid (40.0 g, 190.3 mmol) in anhydrous dichloromethane (400 mL) at room temperature was slowly added thionyl chloride (27.8 mL, 381 mmol). The reaction was then transferred from a room temperature water bath to an oil bath that was then warmed to 30° C. The solution was allowed to stir overnight at 30° C. The reaction mixture was allowed to cool to room temperature prior to the addition of additional thionyl chloride (10.0 mL, 137 mmol). The reaction was allowed to stir at 40° C. for 3 hours. After completion, the reaction mixture was concentrated under reduced pressure, azeotrophing with toluene to provide 4-isopropoxy-3-methoxy-benzoyl chloride (44.3 g) as a yellow oil. The product was used in the next step without further purification.

reactant | 4-isopropoxy-3-methoxy-benzoic acid | 190.3 mmol, 40.0 g | C(C)(C)OC1=C(C=C(C(=O)O)C=C1)OC | C11H14O4
reactant | thionyl chloride | 381 mmol, 27.8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 137 mmol, 10.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 4-isopropoxy-3-methoxy-benzoyl chloride | 44.3 g | C(C)(C)OC1=C(C=C(C(=O)Cl)C=C1)OC | C11H13ClO3
